US04372962
(a) 1,1-diethoxy-2-ethylthioethane
Sodium (10.7 g, 0.463 mole) was dissolved in ethanol (500 ml) and ice cooled. Ethanethiol (34.4 ml, 0.463 mole) was added, followed after 15 mins. by bromoacetaldehyde diethylacetal (83.8 g, 0.421 mole). The mixture was refluxed 3 hours and the volume reduced to 200 ml by distillation of some of the ethanol at atmospheric pressure. Ether (500 ml) was added and the solution washed with water (3×200 ml), dried over MgSO4 and evaporated at atmospheric pressure. The residue was distilled to provide title compound (70.46 g, 99%) bp 96°-100° C./20 mm Hg.

reactant | Sodium | 0.463 mole, 10.7 g | [Na] | Na
reactant | Ethanethiol | 0.463 mole, 34.4 ml | C(C)S | C2H6S
reactant | bromoacetaldehyde diethylacetal | 0.421 mole, 83.8 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1,1-diethoxy-2-ethylthioethane | 70.46 g, 99% | C(C)OC(CSCC)OCC | C8H18O2S
